US06403586B1
Preparation of 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-(3-phenylpropyl)-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 3-phenylpropyl bromide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 94.0%.

reactant | 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C13H12N2O4
reactant | 3-phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
product | 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-(3-phenylpropyl)-2H-pyridazin-3-one | yield of 94.0% | COC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CCCC1=CC=CC=C1)=O | C22H22N2O4
